US04709049
To a solution of 2-(4-chloro-2-fluoro-5-carboxymethylthiophenyl)-4,5,6,7-tetrahydro-2H-isoindole-1,3-dione (1.2 g) and ethanol (1.0 g) in toluene (20 ml), there was added a small amount of p-toluenesulfonic acid, and the mixture was refluxed for 3 hours. Water was added to the reaction mixture. The toluene layer was separated, dried and concentrated. The residue was purified by silica gel chromatography to give 0.1 g of 2-(4-chloro-2-fluoro-5-ethoxycarbonylmethylthiophenyl-4,5,6,7-tetrahydro-2H-isoindole-1,3-dione. nD18 1.5670.

reactant | 2-(4-chloro-2-fluoro-5-carboxymethylthiophenyl)-4,5,6,7-tetrahydro-2H-isoindole-1,3-dione | 1.2 g | ClC=1C(=C(SC1CC(=O)O)F)N1C(C=2CCCCC2C1=O)=O | C14H11ClFNO4S
reactant | ethanol | 1.0 g | C(C)O | C2H6O
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | Water | O | H2O
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 4-chloro-2-fluoro-5-ethoxycarbonylmethylthiophenyl-4,5,6,7-tetrahydro-2H-isoindole-1,3-dione | ClC=1C(=C(SC1CC(=O)OCC)F)N1C(C=2CCCCC2C1=O)=O | C16H15ClFNO4S
